OpenCircuit factory test: BSS138PS-115 RDS(on)
* OpenCircuit Model Factory v0.1.0 bulk adapter
* Original work generated from public factual specifications.
* This model is not copied or adapted from any vendor SPICE model.
* Source: https://jlcpcb.com/api/file/downloadByFileSystemAccessId/8588884796995489792
* Revision: Rev. 1 - 2 November 2010
.model OC_NEXPERIA_BSS138PS-115 VDMOS( VTO=1.3674804219e0 KP=1.5133408015e0 THETA=3.1058276564e-1 LAMBDA=3.9338916695e-2 RD=4.4157012970e-1 RS=2.0000000000e-1 RG=1.0000000000e-4 RDS=1e9 CGS=3.4000000000e-11 CGDMAX=4.0000000000e-12 CGDMIN=4.0000000000e-12 CJO=3.0000000000e-12 IS=1.0000000000e-12 N=1.5000000000e0 RB=2.0000000000e-1)

.temp 25
M1 d1 g1 0 OC_NEXPERIA_BSS138PS-115
ID1 0 d1 DC 5.0000000000e-2
VG1 g1 0 DC 5.0000000000e0
M2 d2 g2 0 OC_NEXPERIA_BSS138PS-115
ID2 0 d2 DC 5.0000000000e-2
VG2 g2 0 DC 5.0000000000e0
M3 d3 g3 0 OC_NEXPERIA_BSS138PS-115
ID3 0 d3 DC 3.0000000000e-1
VG3 g3 0 DC 1.0000000000e1
M4 d4 g4 0 OC_NEXPERIA_BSS138PS-115
ID4 0 d4 DC 3.0000000000e-1
VG4 g4 0 DC 1.0000000000e1
M5 d5 g5 0 OC_NEXPERIA_BSS138PS-115
ID5 0 d5 DC 3.0000000000e-1
VG5 g5 0 DC 2.5000000000e0
M6 d6 g6 0 OC_NEXPERIA_BSS138PS-115
ID6 0 d6 DC 3.0000000000e-1
VG6 g6 0 DC 3.0000000000e0
.op
.end
